US07666879B2
1-(5-tert-Butyl-isoxazol-3-yl)-3-{4-[7-(6-oxo-1,6-dihydro-pyridin-3-yl)-imidazo[1,2-a]pyridin-3-yl]-benzyl}-urea
Dissolve 1-(5-tert-butyl-isoxazol-3-yl)-3-{4-[7-(6-methoxy-pyridin-3-yl)-imidazo[1,2-a]pyridin-3-yl]-benzyl}-urea (0.408 g, 0.82 mmol, 1.0 eq.) in HBr (˜48%, 4 mL) and stir at 80° C. overnight under nitrogen. Evaporate the reaction mixture under vacuum and purify in four steps: 1) flash SCX, 2) reverse phase HPLC The mixture is purified via reversed phase C18 column HPLC employing a gradient of 5 to 65% acetonitrile vs 0.03% aqueous HCl, 3) flash SCX, and 4) silica gel chromatography using a 0-10% MeOH/DC gradient to give the title compound 0.156 g as a white solid: MS(ES), m/z 483 (M+1).

reactant | 1-(5-tert-butyl-isoxazol-3-yl)-3-{4-[7-(6-methoxy-pyridin-3-yl)-imidazo[1,2-a]pyridin-3-yl]-benzyl}-urea | 0.82 mmol, 0.408 g, 1.0 eq. | C(C)(C)(C)C1=CC(=NO1)NC(=O)NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C=2C=NC(=CC2)OC | C28H28N6O3
solvent | HBr | 4 mL | Br | BrH
product | 1-(5-tert-Butyl-isoxazol-3-yl)-3-{4-[7-(6-oxo-1,6-dihydro-pyridin-3-yl)-imidazo[1,2-a]pyridin-3-yl]-benzyl}-urea | 0.156 g | C(C)(C)(C)C1=CC(=NO1)NC(=O)NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CNC(C=C2)=O | C27H26N6O3
